US09120793B2
6-(Chloromethyl)-2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine
A solution of [2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methanol (0.17 g, 0.67 mmol) in SOCl2(2.0 mL) is stirred for 2 hours at room temperature. The reaction mixture is evaporated to dryness and co-distilled with toluene to give the title compound as a yellow solid (0.198 g, 100% crude) which is used without further purification. LCMS m/z 272 (M+H)+.

reactant | [2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methanol | 0.67 mmol, 0.17 g | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)CO)=N1 | C15H15N3O
reactant | SOCl2 | 2.0 mL | O=S(Cl)Cl | Cl2OS
product | 6-(Chloromethyl)-2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.198 g, 100% | ClCC=1C=CC=2N(C1)N=C(N2)C2=C(C=CC=C2C)C | C15H14ClN3
